Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old man with history of hepatitis C (treated), hx of 
endocarditis and vertebral osteomyelitis, hypertension, 
polycystic kidney disease, s/p SCD renal transplant in ___, 
complicated by subacute antibody-mediated rejection in ___, 
with progressive CKD of his allograft, presenting with acute 
onset
abdominal pain, ___. 

Pain began last night after eating dinner, sudden onset, 
initially periumbilical later migrating to the lower right 
quadrant and right flank. States that the pain is "right in the 
transplanted kidney." Pain is now constant, cramping/aching. 
Induced vomiting several times to help relieve discomfort, but 
did not help. NBNB emesis, no hematochezia/melanotic stool. Pain 
worse with movement; he has not eaten since last night before 
the pain began.  Has never had this pain before, had eaten 
earlier that night w/ no pain. No hematuria, dysuria. +bilateral 
___ swelling. Denies f/c, CP, SOB. No missed doses of medicine.  

In the ED, initial VS were: 99.2 108 132/82 100% RA. HRs 
improved to ___. sBPs variable, but mostly in 110-130s (some 
values in 160-180s). Other vitals remained stable.
 
Exam notable for:   On exam, has enlarged and tender RLQ renal 
allograft, also tender in periumbilical area. 1+ b/l pitting 
edema. Lungs clear. Tachycardic. RUE brachiocephalic fistula 
without flow. systolic murmur LUS/LLSB

Labs showed: Cr 3.1 -> 3.2. K 5.4, repeat 5.6. Mg 1.1, improved 
to 1.6 w/ IV mag. Phos 1.7. LFTs and coags unremarkable. Lactate 
normal, flu negative.  UA with blood and proteinuria.

Imaging showed:  
CT A/P W/O contrast 
Nonspecific perinephric stranding surrounding the transplant 
kidney. No perinephric abscess or hydronephrosis. Nonspecific 
stranding around the third portion of the duodenum without wall 
thickening. Mild duodenitis is possible in appropriate clinical 
setting. No additional acute process within the abdomen or
pelvis.

RENAL TRANSPLANT U/S
No hydronephrosis or perinephric fluid collection. Elevated 
resistive indices compared to prior studies. Whether there is 
true diastolic flow within the intrarenal arteries or artifacts 
with possible loss of diastolic flow is difficult to discern. 
Close follow-up with repeat ultrasound is recommended.

Consults:  renal transplant recommended CT abdomen and 
transplant surgery c/s. continue immunosuppression meds, hold 
Bactrim for hyperK. Transplant surg found no indication for 
surgery. 

Patient received: 
___ 13:14 PO Acetaminophen 1000 mg   
___ 14:01 SC Morphine Sulfate 4 mg  
___ 15:13 IV Magnesium Sulfate  
___ 16:10 IV HYDROmorphone (Dilaudid) .5 mg x2   
___ 18:54 PO/NG PredniSONE 5 mg 
___ 18:54 PO/NG Labetalol 200 mg 
___ 20:16 PO Tacrolimus 2.5 mg  
___ 20:16 PO Mycophenolate Sodium ___ 360 mg 
___ 20:37 PO/NG Amitriptyline 75 mg 
___ 22:40 PO/NG Magnesium Oxide 400 mg  
___ 00:27 PO/NG Phosphorus 500 mg
___ 00:27 PO/NG OxyCODONE (Immediate Release) 5 mg 
  
On arrival to the floor, patient reports ongoing abdominal pain 
in same location, no further n/v. Just started having loose 
stools tonight.  
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  

 
Past Medical History:
ESRD due to polycystic kidney disease, on HD ___ to ___ s/p
SCD renal transplant ___
Hypertension
GERD
Hepatitis C, treated with interferon monotherapy then Harvoni
post-transplant
Osteomyelitis, ___ 
Epidural abscess ___.  
Endocarditis ___. 
Hypertention 
Hyperparathyroidism status post subtotal parathyroidectomy 
revision ___, thyroid lobectomy. 
Gout. 
Carotid stenosis. 
Restless legs syndrome. 
Depression. 
 

 
Social History:
___
Family History:
Father: ___
Mother: No medical conditions
Sister: CAD
Son: ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
=====================
VS: 99.3PO 172 / 86 86 19 95 RA   
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: crackles in b/l bases, nonlabored breathing  
ABDOMEN: diffuse TTP, worse in RLQ right over transplant site, 
no
rebound, soft, nondistended. no fluid wave noted. bowel sounds
present.
EXTREMITIES: ___ b/l ___ edema, no cyanosis, warm, well perfused 

PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes   

DISCHARGE PHYSICAL EXAM 
======================
VS: 98.7 PO 171 / 89 (123-171/70-80s) 74 (60-80s) 18 97 RA 
I/O: 800/175
Wt: 156.7 -> 157.2 
GENERAL: NAD, laying in bed  
HEENT: anicteric sclera, pink conjunctiva, MMM  
NECK: supple, no elevaed JVD  
HEART: RRR, S1/S2, ___ SEM LUSB
LUNGS: nonlabored breathing on RA, CTAB
ABDOMEN: diffusely mildly TTP (R>L), no rebound tenderness, 
soft,
moderately distended, no guarding. BS+.
EXTREMITIES: no edema, no cyanosis, warm, well perfused  
PULSES: 2+ DP pulses bilaterally  
NEURO: alert, interactive, moving all 4 extremities with purpose 

 
 
Pertinent Results:
ADMISSION LABS
==============
___ 12:55PM BLOOD WBC-9.1 RBC-3.72* Hgb-10.5* Hct-34.1* 
MCV-92 MCH-28.2 MCHC-30.8* RDW-13.5 RDWSD-45.3 Plt ___
___ 12:55PM BLOOD Neuts-87.3* Lymphs-4.6* Monos-7.3 
Eos-0.4* Baso-0.0 Im ___ AbsNeut-7.95* AbsLymp-0.42* 
AbsMono-0.67 AbsEos-0.04 AbsBaso-0.00*
___ 12:55PM BLOOD ___ PTT-30.5 ___
___ 12:55PM BLOOD Glucose-91 UreaN-37* Creat-3.1* Na-138 
K-5.4* Cl-107 HCO3-19* AnGap-12
___ 12:55PM BLOOD Albumin-3.3* Calcium-9.0 Phos-1.8* 
Mg-1.1*
___ 12:55PM BLOOD ALT-8 AST-12 AlkPhos-65 TotBili-0.3
___ 12:55PM BLOOD Lipase-28
___ 01:17PM BLOOD Lactate-1.6
___ 12:00PM URINE Color-Straw Appear-Clear Sp ___
___ 12:00PM URINE Blood-TR* Nitrite-NEG Protein-300* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:00PM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 12:00PM URINE CastHy-1*
___ 12:00PM URINE Hours-RANDOM Na-102
___ 12:00PM URINE Osmolal-451
___ 04:43PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
 
PERTINENT STUDIES
=================
___ 07:00AM BLOOD CRP-81.5*
___ 07:00AM BLOOD CMV VL-NOT DETECT
___ 06:44AM BLOOD Lactate-1.0
___ 11:36AM URINE Color-Straw Appear-Clear Sp ___
___ 11:36AM URINE Blood-NEG Nitrite-NEG Protein-100* 
Glucose-TR* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 11:36AM URINE RBC-1 WBC-1 Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 11:36AM URINE CastHy-1*
___ 09:10PM URINE Hours-RANDOM Creat-51 TotProt-159 
Prot/Cr-3.1*
___ 09:20PM STOOL NoroGI-NEGATIVE NoroGII-NEGATIVE
 
MICRO
=====
___ EHEC: Negative

___ OVA & PARASITES: NEGATIVE  

___ FECAL CULTURE (Final ___:    
   NO SALMONELLA OR SHIGELLA FOUND. 
   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 
   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 
   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 
___ C. difficile DNA amplification assay (Final ___:  
negative

___ Blood culture: NGTD 

___ U culture: negative

IMAGING
=======
___ RENAL TX U/S
No evidence of hydronephrosis within the right lower quadrant 
transplanted kidney.  Stable elevated resistive indices of the 
intra renal arteries.  Patent main renal artery and main renal 
vein with appropriate waveforms. 
 
___ CT A/P
1. Nonspecific perinephric stranding surrounding the transplant 
kidney.  No perinephric abscess or hydronephrosis. 
2. Nonspecific stranding around the third portion of the 
duodenum without wall thickening.  Mild duodenitis is possible 
in appropriate clinical setting. 
3. No additional acute process within the abdomen or pelvis. 

DISCHARGE LABS
===============
___ 06:40AM BLOOD WBC-4.0 RBC-3.39* Hgb-9.6* Hct-30.4* 
MCV-90 MCH-28.3 MCHC-31.6* RDW-13.3 RDWSD-44.0 Plt ___
___ 06:40AM BLOOD Glucose-96 UreaN-42* Creat-3.2* Na-141 
K-5.1 Cl-107 HCO3-22 AnGap-___ year old man with history of hepatitis C (treated), 
hypertension, polycystic kidney disease, s/p SCD renal 
transplant in ___, complicated by subacute antibody-mediated 
rejection in ___, with progressive CKD of his allograft, 
presenting with
acute onset abdominal pain and ___. 
 
ACTIVE ISSUES 
===========
# Abdominal Pain
# Diarrhea, bloody
Presented with sudden onset diffuse abdominal pain shortly after 
eating dinner. CT scan with duodenitis of unclear significance, 
and mild enlargement of the kidney with perinephric stranding. 
No evidence of obstruction, appendicitis. Ischemic colitis 
considered given bloody stools, but given chronicity of pain 
with repeated normal lactate, was thought less likely. 
Infectious diarrhea is most likely given
immunosuppression with no clear history or symptoms of 
inflammatory diarrhea and reportedly unremarkable recent 
endoscopic evaluation. Stool studies unrevealing and abdominal 
pain/diarrhea improved without intervention, likely etiology 
viral gastroenteritis. He received dilaudid and acetaminophen 
while in house, discharged without opioids. By discharge was 
tolerating regular diet.  Consider GI follow up as an outpatient
 
# ESRD s/p renal transplant:
# Hyperkalemia
He has had prior subacute antibody mediated rejection in ___, 
with DSAs to DQ7 and B18, treated with IVIG, steroids, 
rituximab, and change of immunosuppression from rapamycin to 
tacrolimus. Biopsy in ___ showed more chronic damage. He has 
had moderate proteinuria for some time now, likely due to 
transplant glomerulopathy. He did not have ___ as Cr was near 
recent baselines per transplant database. Renal transplant U/S x 
2 w/ stable elevated resistive indices compared to prior studies
but no fluid collections, hydro with no changes on close follow 
up scan. Renal biopsy was deferred. Discontinued losartan and 
Bactrim given persistent hyperkalemia and started sodium 
bicarbonate 1300mg BID, atovaquone for ppx. 
Discharge Immunosuppression
- tacrolimus 3mg Q12h
- mycophenolate myfortic 360mg PO BID
- prednisone 5mg PO daily
- atovaquone 1500 daily 
 
# HTN: presented with uncontrolled severe asymptomatic 
hypertension, improved with increased labetalol and with 
addition of nifedipine. Discharge regimen labetalol 400mg TID 
and nifedipine ER 30mg QD. Losartan was discontinued 

# Bone/mineral disease: continued home dose cinacalcet 

TRANSITIONAL ISSUES: 
====================
[] MEDICATION CHANGES 
   [ ] STOP: Bactrim, losartan 
   [ ] START: atovaquone, nifedipine, sodium bicarbonate
   [ ] CHANGED: MMF decreased, tacro increased
[] IMMUNOSUPPRESSION REGIMEN
- tacrolimus 3mg Q12h
- mycophenolate myfortic 360mg PO BID
- prednisone 5mg PO daily
- atovaquone 1500 daily 
[] Consider GI follow up as an outpatient
[] Patient should follow up with the renal transplant team 
within 1 month of discharge 
[] ___ need further uptitration of anti-HTN regimen. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 75 mg PO QHS 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 500 mg PO BID 
4. Cinacalcet 30 mg PO DAILY 
5. Labetalol 200 mg PO BID 
6. Losartan Potassium 100 mg PO DAILY 
7. Magnesium Oxide 400 mg PO DAILY 
8. Mycophenolate Sodium ___ 360 mg PO QID 
9. PredniSONE 5 mg PO DAILY 
10. Ranitidine 150 mg PO BID 
11. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
12. Tacrolimus 2.5 mg PO Q12H 
13. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Atovaquone Suspension 1500 mg PO DAILY  
3.  NIFEdipine (Extended Release) 30 mg PO DAILY  
4.  Sodium Bicarbonate 1300 mg PO BID  
5.  Labetalol 400 mg PO TID  
6.  Mycophenolate Sodium ___ 360 mg PO BID  
7.  Ranitidine 150 mg PO DAILY  
8.  Tacrolimus 3 mg PO Q12H  
9.  Amitriptyline 75 mg PO QHS  
10.  Aspirin 81 mg PO DAILY  
11.  Calcium Carbonate 500 mg PO BID  
12.  Cinacalcet 30 mg PO DAILY  
13.  Magnesium Oxide 400 mg PO DAILY  
14.  Multivitamins 1 TAB PO DAILY  
15.  PredniSONE 5 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
- Abdominal pain
- Diarrhea
- Viral gastroenteritis
- Hypertension

SECONDARY
- S/p kidney transplantation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for abdominal pain and 
diarrhea. You had a thorough evaluation including a CT scan and 
stool studies. The stool studies were reassuring. The CT scan 
showed duodenitis (inflammation of your small bowel). The most 
likely cause of your pain and diarrhea was a viral infection of 
you GI system. 

During your hospitalization, you immunosuppression for your 
kidney transplant was adjusted. You were started on a new 
medication called atovaquone to prevent infection, as well as a 
blood pressure medication called nifedipine. Please stop taking 
the Bactrim and losartan. 

Please follow up with your outpatient providers as below.

Wishing you well,

Your ___ Care Team 
 
Followup Instructions:
___